.subckt myphaseblender gnd input_a input_b output sel<0> sel<1> sel<2> vdd
* C:\Users\Daniel\Documents\LTspiceXVII\lib\sym\AutoGenerated\my_phase_blender2.asc
M1 N001 sel<0> input_a input_a EENMOS w=1u l=0.1u
M2 N001 sel<1> input_a input_a EENMOS w=1u l=0.1u
M3 N001 sel<2> input_a input_a EENMOS w=3u l=0.1u
M4 N001 sel<0>_bar input_b input_b EENMOS w=1u l=0.1u
M5 N001 sel<1>_bar input_b input_b EENMOS w=1u l=0.1u
M6 N001 sel<2>_bar input_b input_b EENMOS w=3u l=0.1u
M7 N002 N001 0 0 EENMOS w=10u l=0.1u
M8 output N002 0 0 EENMOS w=1u l=0.1u
C1 N001 0 1n
M14 sel<0>_bar sel<0> 0 0 EENMOS w=10u l=0.1u
M16 sel<1>_bar sel<1> 0 0 EENMOS w=10u l=0.1u
M18 sel<2>_bar sel<2> 0 0 EENMOS w=10u l=0.1u
M19 sel<2>_bar sel<2> vdd vdd EEPMOS w=1u l=.1u
M11 N001 sel<0>_bar input_a input_a EEPMOS w=1u l=.1u
M12 N001 sel<1>_bar input_a input_a EEPMOS w=1u l=.1u
M13 N001 sel<2>_bar input_a input_a EEPMOS w=3u l=.1u
M20 N001 sel<0> input_b input_b EEPMOS w=1u l=.1u
M21 N001 sel<1> input_b input_b EEPMOS w=1u l=.1u
M22 N001 sel<2> input_b input_b EEPMOS w=3u l=.1u
C2 sel<2>_bar 0 100n
M15 sel<1>_bar sel<1> vdd vdd EEPMOS w=1u l=.1u
M17 sel<0>_bar sel<0> vdd vdd EEPMOS w=1u l=.1u
M9 N002 N001 vdd vdd EEPMOS w=1u l=.1u
M10 output N002 vdd vdd EEPMOS w=1u l=.1u
*.model NMOS NMOS
*.model PMOS PMOS
*.lib C:\Users\Daniel\Documents\LTspiceXVII\lib\cmp\standard.mos
* NMOS/PMOS models from
* https://people.rit.edu/lffeee/SPICE_Examples.pdf
.model EENMOS NMOS (VTO=0.4 KP=432E-6 GAMMA=0.2 PHI=.88)
.model EEPMOS PMOS (VTO=-0.4 KP=122E-6 GAMMA=0.2 PHI=.88)

*.backanno
.ends

